US05516756
Part A: Preparation of 4-Undecylpiperazine
Excess piperazine (5 eq) and 1-bromoundecane (1.0 eq) are dissolved in dichloromethane and allowed to react overnight. The mixture is extracted with aqueous sodium bicarbonate and the organic layer dried with sodium sulfate. The mixture is filtered, the solvent removed in vacuo and the residue purified by column chromatography.

reactant | piperazine | 5 eq | N1CCNCC1 | C4H10N2
reactant | 1-bromoundecane | 1.0 eq | BrCCCCCCCCCCC | C11H23Br
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-Undecylpiperazine | C(CCCCCCCCCC)N1CCNCC1 | C15H32N2
